* C:\Users\singh\Desktop\Analog IC Design Lab\Lab2\cmos_inverter\cmos-inverter-level54.asc
Vds N001 0 1.8
Vgs N002 0 1.8
M1 N001 N002 output N001 P_50n l=50n w=500n
M2 output N002 0 0 N_50n l=100n w=454n
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\singh\Documents\LTspiceXVII\lib\cmp\standard.mos
.dc Vgs 0 1.8 0.01
.include cmos_models.txt
.backanno
.end
