* C:\Users\MRADULA SINGH\OneDrive\Documents\LTspiceXVII\lab\Resistive Load inverter ckt\2Schematic.asc
M1 N001 N002 0 0 NMOS l=180 w=270
V1 N001 0 1.8V
V2 N002 0 1.8V
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\MRADULA SINGH\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.dc V2 0V 1.8V 0.1
.backanno
.end
