* Copyright (c) 1998-2021 Analog Devices, Inc.  All rights reserved.
*
.subckt ADA4522 1 2 3 4 5
D6 Vn 1 DX
Ccm1 1 Vn 35p Rser=100 noiseless
Cdm 1 2 7p Rser=200 noiseless
CF N009 N011 7.1p Rser=15k noiseless
M5 N005 N008 Vp Vp POXN temp=27
M6 N005 N014 Vn Vn NOXN temp=27
R4 N012 0 48 noiseless
C3 N013 N012 10n Rpar=18.9K noiseless
R5 N013 0 1 noiseless
G1 0 N013 1 0 5.25m
G8 0 N013 2 0 5.25m
G9 0 N013 0 3 5.25m
G10 0 N013 0 4 5.25m
R10 Vp Mid 100Meg noiseless
D10 2 1 Din
G12 0 N011 N005 Mid 100m
R12 N011 0 1K noiseless
B1 0 N006 I=10u*dnlim(uplim(V(1),V(3)-1.4,.1), V(4)-.2, .1)+1n*V(1) + 2.93p
B2 N006 0 I=10u*dnlim(uplim(V(2),V(3)-1.39,.1), V(4)-.21, .1)+1n*V(2)
C1 N006 0 .01f Rpar=100K noiseless
C2 Vp N008 15f Rser=3 Rpar=100Meg noiseless
A1 0 N009 Vp Vp Vp Vp N008 Vp OTA g=10u linear ref=-33.8m vlow=-2.2 vhigh=0
C5 N014 Vn 15f Rser=3 Rpar=100Meg noiseless
A3 0 N009 Vn Vn Vn Vn N014 Vn OTA g=10u linear ref=33.8m vlow=0 vhigh=1.7
D1 N009 0 DANTISAT
A5 N007 0 0 0 0 0 N009 0 OTA g=120u asym isource=6.43u isink=-12.7u vlow=-1e308 vhigh=1e308
L1 N011 0 500n Rser=10 noiseless
G7 Vp N008 N005 Vp 10m vto=-10m dir=1
G6 N014 Vn Vn N005 10m vto=-8m dir=1
C8 Vp N005 1p Rpar=100Meg noiseless
C9 N005 Vn 1p Rpar=100Meg noiseless
C10 Mid Vn 50p Rser=1Meg Rpar=100Meg noiseless
A4 0 N006 0 0 0 0 N007 0 OTA g=1u linear Rout=1Meg Cout=90f en=sqrt( ( (7.3n*(1+(freq/600K)**2)*(1+freq/10Meg))/((1+(freq/920K)**3.2)))**2+((17p*((freq/350k)**4.6))/(((1+freq/2.4Meg)**1.4)*((1+freq/10Meg)**4)*((1+freq/6.8Meg)**2)*((1+freq/9Meg)**2)))**2) + (.1n*(1+freq/9Meg)**3.5)/(1+freq/70Meg) vlow=-1e308 vhigh=1e308
G2 0 N006 0 N012 1µ
Ccm2 2 Vn 35p Rser=100 noiseless
D2 1 Vp DX
D3 2 Vp DX
D4 Vn 2 DX
D5 Vp 1 DBIAS
D7 Vp 2 DBIAS
A2 0 2 0 0 0 0 0 0 OTA g=0 in=.66p*((1+MIN(freq,4k)/15k)**3)/((MAX(freq,5k)/5k)**1.5)
A6 0 1 0 0 0 0 0 0 OTA g=0 in=.66p*((1+MIN(freq,4k)/15k)**3)/((MAX(freq,5k)/5k)**1.5)
G4 0 Vn 4 0 1k
R7 Vn 0 1m Noiseless
Vimon N005 5 0
F1 3 4 Vimon 1
G3 0 Vp 3 0 1k
R6 Vp 0 1m Noiseless
Iq 3 4 830µ
.model DX D(IS=1E-14,RS=0.1 noiseless)
.model NOXN VDMOS(Vto=.83  Mtriode=.7 Kp=53.33m RD=38 noiseless)
.model POXN VDMOS(Vto=-.83 Mtriode=.55 Kp=26.67m Theta=10m Rd=7  pchan noiseless)
.model Din D(Ron=150 Roff=30K Rrev=600 vfwd=5.1 epsilon=600m vrev=5.5 revepsilon=600m noiseless)
.model DANTISAT D(Ron=1k Roff=30Meg vfwd=1 epsilon=100m vrev=600m revepsilon=100m noiseless)
.model DBIAS D(Ron=100Meg Roff=1T vfwd=600m epsilon=500m ilimit=100p noiseless)
.ends ADA4522
